US06573270B1
N-[3-{2-[(5-bromo-2-pyrimidinyl)oxy]ethoxy}-1-methyl-4-(3-methylphenyl)-1H-pyrazol-5-yl]-4-(tert-butyl)benzenesulfonamide
To 4-(tert-butyl)-N-[3-(2-hydroxyethoxy)-1-methyl-4-(3-methylphenyl)-1H-pyrazol-5-yl]benzenesulfonamide (Preparation 61) (101 mg) in tetrahydrofuran (2 ml) and N,N-dimethylacetamide (0.5 ml) at 0° C. was added sodium hydride (20 mg of a 60% dispersion in oil) followed by the 5-bromo-2-chloropyrimidine (66 mg) The reaction was stirred for one hour at 0° C. and then at room temperature overnight. Water (3 ml) was then added to the reaction followed by saturated aqueous ammonium chloride (3 ml) and the mixture was extracted with ethyl acetate (3×5 mls). The combined organics were then washed with 1:1 saturated ammonium chloride and water (4×15 ml) and dried over magnesium sulfate, filtered and concentrated under reduced pressure to yield the crude material (130 mg). The crude material was purified by HPLC on a 5μ ODS Phenomenex Magellen™ column with a gradient elution of acetonitrile (5% to 95%) and 0.1M NH4OAc (95% to 5%) to yield the desired product as an off white solid (12 mg).

reactant | 4-(tert-butyl)-N-[3-(2-hydroxyethoxy)-1-methyl-4-(3-methylphenyl)-1H-pyrazol-5-yl]benzenesulfonamide | 101 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=NN1C)OCCO)C1=CC(=CC=C1)C | C23H29N3O4S
reactant | sodium hydride | [H-].[Na+]
reactant | 5-bromo-2-chloropyrimidine | 66 mg | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | ammonium chloride | 3 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylacetamide | 0.5 ml | CN(C(C)=O)C | C4H9NO
solvent | Water | 3 ml | O | H2O
product | N-[3-{2-[(5-bromo-2-pyrimidinyl)oxy]ethoxy}-1-methyl-4-(3-methylphenyl)-1H-pyrazol-5-yl]-4-(tert-butyl)benzenesulfonamide | BrC=1C=NC(=NC1)OCCOC1=NN(C(=C1C1=CC(=CC=C1)C)NS(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)C | C27H30BrN5O4S
